US08975282B2
Step 4) N-(2-chloro-5-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a suspension of 4-amino-5-chloro-2-fluorophenol (0.97 g, 6 mmol) and 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carb oxylic acid (1.42 g, 6.12 mmol) in DMF (20 mL) was added EDCI (0.38 mg, 7.2 mmol) and HOAT (0.16 g, 1.2 mmol). The mixture was allowed to warm up to 80° C. and stirred for 24 hours. Then H2O (200 mL) and EtOAc (2 mL) was added. The resulted mixture was stirred at 0° C. for 2 hours, then filtered to give the title compound as a light brown solid (1.2 g, 53.2%).

reactant | 4-amino-5-chloro-2-fluorophenol | 6 mmol, 0.97 g | NC1=CC(=C(C=C1Cl)O)F | C6H5ClFNO
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carb oxylic acid | 6.12 mmol, 1.42 g | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | EDCI | 7.2 mmol, 0.38 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 1.2 mmol, 0.16 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 200 mL | O | H2O
product | N-(2-chloro-5-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 1.2 g, 53.2% | ClC1=C(C=C(C(=C1)O)F)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H15ClFN3O3
